US09085570B2
A solution of tert-butyl N-[(1S,3R)-3-(methanesulfonyloxy)cyclopentyl]carbamate (2.1 g, 7.52 mmol, 1.00 equiv) and sodium iodide (7 g, 46.70 mmol, 6.21 equiv) in acetone (40 mL) was stirred at 50° C. for 30 min. The reaction mixture was diluted with 100 mL of water then extracted with 2×30 mL of ethyl acetate. The combined organic layers was washed with 2×50 mL of brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was purified on a silica gel column with ethyl acetate/petroleum ether (1/5) to give 1.0 g (43%) of tert-butyl N-[(1S,3S)-3-iodocyclopentyl]carbamate as a white solid.

reactant | tert-butyl N-[(1S,3R)-3-(methanesulfonyloxy)cyclopentyl]carbamate | 7.52 mmol, 2.1 g, 1.00 equiv | CS(=O)(=O)O[C@H]1C[C@H](CC1)NC(OC(C)(C)C)=O | C11H21NO5S
reactant | sodium iodide | 46.70 mmol, 7 g, 6.21 equiv | [I-].[Na+]
solvent | acetone | 40 mL | CC(=O)C | C3H6O
solvent | water | 100 mL | O | H2O
product | tert-butyl N-[(1S,3S)-3-iodocyclopentyl]carbamate | 1.0 g, 43% | I[C@@H]1C[C@H](CC1)NC(OC(C)(C)C)=O | C10H18INO2
